US08193378B2
5-Fluoro-7-(methoxymethoxy)-2H-chromene-3-carbaldehyde (1.5 g) was dissolved in acetone (25 mL), and 1 M HCl (20 mL) was added thereto, followed by heating and refluxing for 5 hours. The reaction liquid was concentrated and the residue was dissolved in EtOAc, washed with water and brine, and dried over MgSO4, and the filtrate was concentrated. The residue was washed with chloroform to obtain 5-fluoro-7-hydroxy-2H-chromene-3-carbaldehyde (0.95 g) as a yellow powder.

reactant | 5-Fluoro-7-(methoxymethoxy)-2H-chromene-3-carbaldehyde | 1.5 g | FC1=C2C=C(COC2=CC(=C1)OCOC)C=O | C12H11FO4
reactant | HCl | 1 M, 20 mL | Cl | ClH
solvent | acetone | 25 mL | CC(=O)C | C3H6O
product | 5-fluoro-7-hydroxy-2H-chromene-3-carbaldehyde | 0.95 g | FC1=C2C=C(COC2=CC(=C1)O)C=O | C10H7FO3
